US06627651B1
Into a suspension of lithium aluminum hydride (0.40 g) in diethyl ether (25 ml) was added dropwise at 0° C. a solution of methyl 4-(propoxymethyl)benzoate (2.09 g) in diethyl ether (25 ml) over a period of one hour. After stirring at room temperature for 2 hours, water (0.4 ml), a 15% aqueous solution of sodium hydroxide (0.4 ml) and water (0.4 ml) were added to the reaction mixture at 0° C., and the resulting mixture was stirred at room temperature for 2 hours. After addition of magnesium sulfate, the solid was removed by filtration. The filtrate was evaporated under reduced pressure to remove the solvent to obtain 4-(propoxymethyl)benzyl alcohol (1.81 g) as a colorless oily substance.

reactant | lithium aluminum hydride | 0.40 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-(propoxymethyl)benzoate | 2.09 g | C(CC)OCC1=CC=C(C(=O)OC)C=C1 | C12H16O3
reactant | sodium hydroxide | 0.4 ml | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | water | 0.4 ml | O | H2O
solvent | water | 0.4 ml | O | H2O
product | 4-(propoxymethyl)benzyl alcohol | 1.81 g | C(CC)OCC1=CC=C(CO)C=C1 | C11H16O2
